US05539114
A solution of p-tolyl isocyanate (133.2 g, 1.00 mol) in xylene (300 ml) is metered at room temperature into a solution of ethyl anthranilate (165.2 g, 1.00 mol) in xylene (600 ml). After addition is complete, the mixture is stirred at 90° C. for 2.5 hours. 18.0 ml of a 30% strength solution of methanolic sodium methoxide (0.10 mol) are metered in and the mixture is stirred at 90° C. for a further 2 hours, ethanol and methanol being distilled off. After cooling, the product is filtered off with suction and washed with 3×75 ml of xylene. The xylene-moist precipitate is treated with dilute hydrochloric acid and the residual xylene is removed by azeotropic distillation. The product is then filtered off with suction, washed with water and dried. 233.0 g of 3-(4-tolyl)-2,4(1H,3H)-quinazolinedione (yield 92.4% of theory) of melting point 267° C. (lit 265° to 266° C.) are obtained.

reactant | p-tolyl isocyanate | 1.00 mol, 133.2 g | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
reactant | ethyl anthranilate | 1.00 mol, 165.2 g | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | sodium methoxide | 0.10 mol | C[O-].[Na+]
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(4-tolyl)-2,4(1H,3H)-quinazolinedione | 233.0 g, yield 92.4% | C1(=CC=C(C=C1)N1C(NC2=CC=CC=C2C1=O)=O)C | C15H12N2O2
